US07795278B2
4-Bromo-1-methoxy-5,6,7,8-tetrahydroisoquinoline (Compound 9)
47.7 g (209 mmol) of 4-bromo-5,6,7,8-tetrahydro-2H-isoquinolin-1-one are dissolved in 1 l of chloroform and, after addition of 77.8 g (282 mmol) of silver(I) carbonate and 53.5 ml (118.7 g, 836 mmol) of methyl iodide, stirred at 50° C. for 3 h. After cooling, the suspension is filtered through Celite, concentrated and chromatographed on silica gel using n-heptane with addition of 2% ethyl acetate. A colorless oil (42.5 g, 84% yield) is obtained.

reactant | 4-bromo-5,6,7,8-tetrahydro-2H-isoquinolin-1-one | 209 mmol, 47.7 g | BrC1=CNC(C=2CCCCC12)=O | C9H10BrNO
reactant | methyl iodide | 836 mmol, 53.5 ml, 118.7 g | CI | CH3I
solvent | chloroform | 1 l | C(Cl)(Cl)Cl | CHCl3
catalyst | silver(I) carbonate | 282 mmol, 77.8 g | C([O-])([O-])=O.[Ag+].[Ag+]
product | 4-Bromo-1-methoxy-5,6,7,8-tetrahydroisoquinoline | 42.5 g, 84% yield | BrC1=CN=C(C=2CCCCC12)OC | C10H12BrNO
